US06251894B1
Sodium triacetoxyborohydride (8.5 g) and acetic acid (2.4 g) were added dropwise to a mixture of (±)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(phenylmethyl)-4-piperidinone (4.3 g) and 5,6,7,10-tetrahydro-7-methyl-10-(4-piperidinylidene)imidazo[1,2-a]pyrrolo[3,2-d]azepine (2.7 g) in 1,2-dichloroethane (100 ml) and the mixture was stirred at RT overnight. Water and K2CO3 (5 g) were added and the layers were separated. The aqueous layer was extracted with CH2Cl2. The combined organic layers were dried, filtered and the solvent evaporated. The residue was purified by HPLC over silica gel (eluent: CH2Cl2/CH3OH 96/4 to 85/15). The pure fractions were collected and evaporated, yielding 1.04 g (15%) of fraction 1 and 0.26 g (4%) of (±)-trans-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-(5,6,7,10-tetrahydro-7-methylimidazo[1,2-a]pyrrolo[3,2-d]azepin-10-ylidene)-1-piperidinyl]-2-(phenylmethyl)piperidine (comp. 2; mp. 141.5° C.). Fraction 1 was repurified by HPLC over NH2-Kromasil (eluent: 100% CH2Cl2). The pure fractions were collected and the solvent was evaporated, yielding 0.75 g (11%) of (±)-cis-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-(5,6,7,10-tetrahydro-7-methylimidazo[1,2-a]-pyrrolo[3,2-d]azepin-10-ylidene)-1-piperidinyl]-2-(phenylmethyl)piperidine (comp. 3; mp. 133.0° C.).

reactant | Sodium triacetoxyborohydride | 8.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (±)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(phenylmethyl)-4-piperidinone | 4.3 g | FC(C=1C=C(C(=O)N2C(CC(CC2)=O)CC2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C21H17F6NO2
reactant | 5,6,7,10-tetrahydro-7-methyl-10-(4-piperidinylidene)imidazo[1,2-a]pyrrolo[3,2-d]azepine | 2.7 g | CN1C=CC=2C(C=3N(CCC21)C=CN3)=C3CCNCC3 | C16H20N4
reactant | K2CO3 | 5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | Water | O | H2O
solvent | acetic acid | 2.4 g | C(C)(=O)O | C2H4O2
product | (±)-trans-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-(5,6,7,10-tetrahydro-7-methylimidazo[1,2-a]pyrrolo[3,2-d]azepin-10-ylidene)-1-piperidinyl]-2-(phenylmethyl)piperidine | 0.26 g, 4% | FC(C=1C=C(C(=O)N2[C@H](C[C@@H](CC2)N2CCC(CC2)=C2C=3N(CCC4=C2C=CN4C)C=CN3)CC3=CC=CC=C3)C=C(C1)C(F)(F)F)(F)F | C37H37F6N5O
